US04976874
Preparation of N-propenyl-N,N,N-tris-(3,6-dioxaheptyl)ammonium tribromide.
The crude quaternary ammonium salt (5.36 g, 12 mmoles) was placed in a round bottom flask and bromine (0.61 ml, 1.92 g, 12 mmoles) added dropwise from a buret with vigorous stirring. The product, N-propyl-N,N,N-tris(3,6-dioxaheptyl)ammonium tribromide, was a dark red oil (yield 7.27 g, 100%). %Brtot =39.18 (exp), 39.54 (calc): %Brox =20.38 (exp), 26.36 (calc).

reactant | bromine | 12 mmoles, 0.61 ml, 1.92 g | BrBr | Br2
reactant | N-propyl-N,N,N-tris(3,6-dioxaheptyl)ammonium tribromide | [Br-].[Br-].[Br-].C(CC)[N+](CCOCCOC)(CCOCCOC)CCOCCOC.C(CC)[N+](CCOCCOC)(CCOCCOC)CCOCCOC.C(CC)[N+](CCOCCOC)(CCOCCOC)CCOCCOC
product | N-propenyl-N,N,N-tris-(3,6-dioxaheptyl)ammonium tribromide | [Br-].[Br-].[Br-].C(=CC)[N+](CCOCCOC)(CCOCCOC)CCOCCOC.C(=CC)[N+](CCOCCOC)(CCOCCOC)CCOCCOC.C(=CC)[N+](CCOCCOC)(CCOCCOC)CCOCCOC | InChI=1S/3C18H38NO6.3BrH/c3*1-5-6-19(7-10-23-16-13-20-2,8-11-24-17-14-21-3)9-12-25-18-15-22-4;;;/h3*5-6H,7-18H2,1-4H3;3*1H/q3*+1;;;/p-3
